US04031243
Preparation 2: Ethyl 2-(4-isobutylphenyl)cyanoacetate
A mixture of 52 grams (0.31 mol) of 4-isobutylphenylacetonitrile (Preparation 1) and 230 grams (1.95 mols) of diethyl carbonate was heated in a flask provided with a thermometer, stirrer, dropping funnel, and distillation column having a length of 19 centimeters filled with Fenske rings. When the temperature of the mixture had reached 90° C, a solution of sodium ethoxide in ethanol that was freshly prepared from 9.2 grams (0.4 mol) of sodium metal and 200 milliliters of ethanol was added drop by drop from the dropping funnel while the vapors formed were permitted to distill through the distillation column. After the temperature reached between 120° and 130° C, no further vapors were distilled and the mixture was stirred vigorously for an additional period of 1 hour. Thereafter, the mixture remaining in the flask was cooled and the flask was surrounded with cracked ice and a solution of 35 milliliters of glacial acetic acid in 130 milliliters of water was added thereto with stirring. The organic phase was then separated from the aqueous phase. The aqueous phase was extracted with ether and the extract was combined with the organic phase, which was then successively washed with a saturated aqueous solution of sodium bicarbonate and water and dried over anhydrous magnesium sulfate. The dried liquid was then filtered to separate the solids therefrom and the filtrate was distilled under vacuum, the fraction distilling between 150° and 155° C at a pressure of 1 millimeter of mercury, which is the ethyl 2-(4-isobutylphenyl)cyanoacetate, was collected.

reactant | 4-isobutylphenylacetonitrile | 0.31 mol, 52 grams | C(C(C)C)C1=CC=C(C=C1)CC#N | C12H15N
reactant | diethyl carbonate | 1.95 mols, 230 grams | C(OCC)(OCC)=O | C5H10O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.4 mol, 9.2 grams | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 200 milliliters | C(C)O | C2H6O
product | Ethyl 2-(4-isobutylphenyl)cyanoacetate | C(C(C)C)C1=CC=C(C=C1)C(C(=O)OCC)C#N | C15H19NO2
